US06258961B1
(+)-(S)-(2-chlorophenyl(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)acetic acid methyl ester hdyrochloride salt
6 g (0.017 mol) of dextrorotatory methyl [2-(2-thienyl)ethylamino](2-chlorophenyl)acetate hydrochloride is suspended in 6.7 ml of 38% aqueous formaline solution and heated to 60° C. under stirring. The starting material dissolves at 60° C., the resulting solution is stirred at the temperature for 30 minutes, till the completion of the reaction. The reaction mixture is then diluted with 100 ml of 1.2 dichloroethane and 150 ml of water, and after shaking well, the phases are separated. The aqueous phase is extracted with 2×30 ml of 1,2-dichloroethane, the united organic phase is extracted with 100 ml of water, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The residual 6 g of material is dissolved in 30 ml of diethyl ether, and while cooling the reaction mixture, 0.6 g of dry hdyrogen chloride gas is introduced into the solution, at room temperature. The precipitated crystalline material is filtered off, washed with ether and dried. Weight: 5.5 g. Mp.: 130-132° C., [α]22D=+60°. Yield: 90.1%. Optical purity: 99% (by HPLC investigation).

reactant | methyl [2-(2-thienyl)ethylamino](2-chlorophenyl)acetate hydrochloride | 0.017 mol, 6 g | Cl.S1C(=CC=C1)CCNC(C(=O)OC)C1=C(C=CC=C1)Cl
reactant | formaline | 6.7 ml | C=O | CH2O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | water | 150 ml | O | H2O
product | 2-chlorophenyl(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)acetic acid methyl ester | Yield: 90.1% | COC(C(N1CC2=C(CC1)SC=C2)C2=C(C=CC=C2)Cl)=O | C16H16ClNO2S
